US05385922
4-carboxy-5,5-dimethyl-2-pentylthiazolidine
4 g of hexanal were added to a vigorously stirred solution of 9 g of D-penicillamine in 100 ml of H2O. After stirring for 30 minutes, the solid substance was filtered off, washed successively with water and diethyl ether and dried. Yield 60%.

reactant | hexanal | 4 g | C(CCCCC)=O | C6H12O
reactant | D-penicillamine | 9 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | H2O | 100 ml | O | H2O
product | 4-carboxy-5,5-dimethyl-2-pentylthiazolidine | Yield 60% | C(=O)(O)C1NC(SC1(C)C)CCCCC | C11H21NO2S
